US09371285B2
Into a 50-mL round-bottom flask was placed tetrahydrofuran saturated with NH3 (gas) (20 mL), 4′-hydroxybiphenyl-4-carboxylic acid (1 g, 4.67 mmol, 1 equiv), HOBt (900 mg, 6.67 mmol, 1.4 equiv), EDCl (1.34 g, 7.0 mmol, 1.5 equiv). The resulting solution was stirred for 4 hrs at room temperature. The resulting mixture was concentrated under vacuum. The residue was dissolved in 50 mL of ethyl acetate, washed with 2×40 mL of H2O, 1×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The reside was purified by column chromatography on silica gel (eluting with 1:1 ethyl acetate/petroleum ether) to give 500 mg (50%) of 4′-hydroxybiphenyl-4-carboxamide as a white solid.

reactant | NH3 | 20 mL | N | H3N
reactant | 4′-hydroxybiphenyl-4-carboxylic acid | 4.67 mmol, 1 g, 1 equiv | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | HOBt | 6.67 mmol, 900 mg, 1.4 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 7.0 mmol, 1.34 g, 1.5 equiv | CCN=C=NCCCN(C)C.Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4′-hydroxybiphenyl-4-carboxamide | 500 mg, 50% | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N | C13H11NO2
